US06541504B1
5-Chloro-3-(3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one
To a solution containing 5-chlorooxindole (0.30 g, 1.79 mmol) and phthalide (0.312 g, 2.33 mmol) in 6.0 mL of dimethylformamide (DMF) was added 3.76 mL of sodium hexamethyldisilazane (1.0 M in tetrahydrofuran (THF)) over 1 min. The solution was stirred at room temperature for 25 min and then 85 mg (0.634 mmol) phthalide was added. After an additional 20 min at room temperature the mixture was poured into 70 mL of 4% aqueous HCl solution to give a yellow solid. The aqueous mixture was extracted with EtOAc and the organic phase washed with saturated NaHCO3, brine and then dried with Na2SO4. After removal of the solvent in vacuo, the solid residue was recrystallized from MeOH/EtOAc to afford the title (141 mg, 28%) compound as a yellow solid.

reactant | 5-chlorooxindole | 1.79 mmol, 0.30 g | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
reactant | phthalide | 2.33 mmol, 0.312 g | C1(=O)OCC2=CC=CC=C12 | C8H6O2
reactant | sodium hexamethyldisilazane | 1.0 M, 3.76 mL | C[Si](N[Si](C)(C)C)(C)C.[Na]
reactant | phthalide | 0.634 mmol, 85 mg | C1(=O)OCC2=CC=CC=C12 | C8H6O2
reactant | HCl | 70 mL | Cl | ClH
solvent | dimethylformamide | 6.0 mL | CN(C=O)C | C3H7NO
product | 5-Chloro-3-(3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | 141 mg, 28% | ClC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=CC=CC=C12 | C16H10ClNO2
